US04540699
2-(5-Methyl-4-imidazolylmethylthio)ethylamine (1.37 g) and 2-nitroamino-5-(1-methyl-2-oxopyridin-4-ylmethyl)pyrimidin-4-one (2.08 g) were refluxed in ethanol (10 ml) for 24 hours. The reaction mixture was cooled and evaporated under reduced pressure to afford a glassy residue which was washed with hot water yielding a white solid. This solid was filtered off, washed with water and recrystallised from methanol to yield 2-[2-(5-methyl-4-imidazolylmethylthio)ethylamino]-5-(1-methyl-2-oxopyridin-4-ylmethyl)pyrimidin-4-one (1.61 g); recrystallisation from aqueous methanol afforded the title compound, m.p. 202.5°-203.5° C.

reactant | 2-(5-Methyl-4-imidazolylmethylthio)ethylamine | 1.37 g | CC1=C(N=CN1)CSCCN | C7H13N3S
reactant | 2-nitroamino-5-(1-methyl-2-oxopyridin-4-ylmethyl)pyrimidin-4-one | 2.08 g | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC1=CC(N(C=C1)C)=O | C11H11N5O4
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-[2-(5-methyl-4-imidazolylmethylthio)ethylamino]-5-(1-methyl-2-oxopyridin-4-ylmethyl)pyrimidin-4-one | 1.61 g | CC1=C(N=CN1)CSCCNC1=NC=C(C(N1)=O)CC1=CC(N(C=C1)C)=O | C18H22N6O2S
